US04518532
To a solution of 955 mg (4 mmoles) of (S)-7-guanidino-3-hydroxyheptanamide hydrochloride in 20 ml of anhydrous N,N-dimethylformamide were added 2.48 g (12 mmoles) of dicyclohexylcarbodiimide and 40 mg of copper(II) chloride. The mixture was stirred for 2 days at room temperature. The reaction mixture was filtered to remove the precipitate and the filtrate was concentrated under reduced pressure. The residue was dissolved in 10 ml of water and washed twice with 10 ml of ethyl acetate. The aqueous layer was evaporated to dryness, dissolved in 5 ml of water, passed through a column (20 mm inner diameter) packed with 50 ml of CM-Sephadex® C-25 (Na-type) and the column was eluted with 200 ml of 0.5M aqueous sodium chloride solution (10 ml fraction size). Fractions No. 17 to No. 30 were combined, evaporated to dryness and extracted 3 times with methanol. The methanol solution was passed through a column (20 mm inner diameter) packed with 150 ml of Sephadex® LH-20 and developed with methanol (5 ml fraction size). Fractions No. 9 to No. 16 were combined and evaporated to dryness. The residue, weighing 950 mg, was crystallized from ethanol-acetone to obtain 790 mg (89.5% yield) of 7-guanidino-2-heptenamide hydrochloride having a melting point of 162°-168° C.

reactant | (S)-7-guanidino-3-hydroxyheptanamide hydrochloride | 4 mmoles, 955 mg | Cl.N(C(=N)N)CCCC[C@@H](CC(=O)N)O
reactant | dicyclohexylcarbodiimide | 12 mmoles, 2.48 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
catalyst | copper(II) chloride | 40 mg | [Cu](Cl)Cl
product | 7-guanidino-2-heptenamide hydrochloride | 790 mg, 89.5% yield | Cl.N(C(=N)N)CCCCC=CC(=O)N | InChI=1S/C8H16N4O.ClH/c9-7(13)5-3-1-2-4-6-12-8(10)11;/h3,5H,1-2,4,6H2,(H2,9,13)(H4,10,11,12);1H
